US06716257B2
Step 3.1: 3-(N′-{4-[(2-cyanoethyl)hydrazonomethyl]benzyliden}-hydrazino)propionitrile
To a suspension of 102 g terephthaldehyde in 700 ml methanol 129.4 g of 2-cyanoethylhydrazine are added drop-wise within 20 minutes. The temperature increases to about 50° C., and an orange-red solution generally arises. After about 10 minutes further crystallization occurs. Stirring continues for 30 minutes and a precipitate that appears is filtered with suction. After washing with a little cold methanol the precipitate is dried under vacuum. 187 g of beige colored product are produced.

reactant | terephthaldehyde | 102 g | C1=CC(=CC=C1C=O)C=O | C8H6O2
reactant | 2-cyanoethylhydrazine | C(#N)CCNN | C3H7N3
solvent | methanol | 700 ml, 129.4 g | CO | CH4O
product | 3-(N′-{4-[(2-cyanoethyl)hydrazonomethyl]benzyliden}-hydrazino)propionitrile | 187 g | C(#N)CCNN=CC1=CC=C(C=NNCCC#N)C=C1 | C14H16N6
